US04380640
82 g of 2-bromo-5,5-dimethylcyclohexane-1,3-dione, 40 g of sodium acetate and 50 g of N-methylthiourea are dissolved in 500 ml of acetic acid. The mixture is stirred at room temperature until the weakly exothermic reaction has subsided, and then refluxed for 3 hours. The reaction mixture is then concentrated to one third of its volume in a rotary evaporator, poured into 100 ml of water and cooled to 0° C. The precipitate is collected by filtration and dried in vacuo at 80° C., affording 64 g of 2-methylamino-5,5-dimethyl-7-oxo-4,5-dihydro-6H-benzthiazole with a melting point of 217°-218° C.

reactant | 2-bromo-5,5-dimethylcyclohexane-1,3-dione | 82 g | BrC1C(CC(CC1=O)(C)C)=O | C8H11BrO2
reactant | sodium acetate | 40 g | C(C)(=O)[O-].[Na+]
reactant | N-methylthiourea | 50 g | CNC(=S)N | C2H6N2S
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2-methylamino-5,5-dimethyl-7-oxo-4,5-dihydro-6H-benzthiazole | 64 g | CNC=1SC2=C(N1)CC(CC2=O)(C)C | C10H14N2OS
